US04806549
3-Butyryl-4-chloro-8-methylquinoline (2.48 g, 10 mmol) and 2,6-dimethylaniline (1.85 ml, 15 mmol) in dioxan (10 ml) were healed at reflux for 30 minutes, then the solvent evaporated and the product converted to free base. Recrystallisation from aqueous ethanol gave 3-butyryl-4-(2,6-dimethylphenylamino)-8-methylquinoline, m.p. 100°-101°.

reactant | 3-Butyryl-4-chloro-8-methylquinoline | 10 mmol, 2.48 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)C | C14H14ClNO
reactant | 2,6-dimethylaniline | 15 mmol, 1.85 ml | CC1=C(N)C(=CC=C1)C | C8H11N
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(2,6-dimethylphenylamino)-8-methylquinoline | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1C)C)C | C22H24N2O
